US07763639B2
1-ETHYL-4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]-PIPERIDINE
Preparation according to Example 1: 4-[2-fluoro-3-(methylsulfonyl)phenyl]-piperidine (0.185 g, 0.72 mmol), acetonitrile (10 ml), potassium carbonate (0.2 g, 1.44 mmol), 1-iodoethane (0.06 ml, 0.75 mmol). Yield: 0.15 g (73%). The amine was converted to several different salts and recrystallized from ethanol/diethyl ether. Hydrochloric acid salt m.p. 273-275° C., hydrobromic acid salt m.p. 267-268° C., fumaric acid salt m.p. 204-206° C., oxalic acid salt m.p. 163-165° C., sulfate salt m.p. 263-265° C., maleic acid salt m.p. 112-113° C. MS m/z (relative intensity, 70 eV) 285 (M+, 12), 271 (15), 270 (bp), 147 (7) 133 (8).

reactant | 4-[2-fluoro-3-(methylsulfonyl)phenyl]-piperidine | 0.72 mmol, 0.185 g | FC1=C(C=CC=C1S(=O)(=O)C)C1CCNCC1 | C12H16FNO2S
reactant | potassium carbonate | 1.44 mmol, 0.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodoethane | 0.75 mmol, 0.06 ml | ICC | C2H5I
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-ETHYL-4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]-PIPERIDINE | C(C)N1CCC(CC1)C1=C(C(=CC=C1)S(=O)(=O)C)F | C14H20FNO2S
